US08685991B2
Part A. Preparation of tert-butyl 4-(vinylsulfonamido)phenylcarbamate
A solution of tert-butyl 4-aminophenylcarbamate (2.63 g, 12.63 mmol) and triethylamine (7.04 mL, 50.51 mmol) were combined in dichloromethane (50 mL) and cooled in an ice bath. After drop wise addition of 2-chloroethanesulfonyl chloride (1.45 mL, 13.9 mmol), the solution was stirred at ambient temperature for 4 h then diluted with 0.5M HCl and extracted into dichloromethane. The product was purified by column chromatography on silica gel, eluting with 1% methanol/dichloromethane to give 2.48 g (66%).

reactant | tert-butyl 4-aminophenylcarbamate | 12.63 mmol, 2.63 g | NC1=CC=C(C=C1)NC(OC(C)(C)C)=O | C11H16N2O2
reactant | triethylamine | 50.51 mmol, 7.04 mL | C(C)N(CC)CC | C6H15N
reactant | 2-chloroethanesulfonyl chloride | 13.9 mmol, 1.45 mL | ClCCS(=O)(=O)Cl | C2H4Cl2O2S
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | HCl | 0.5M | Cl | ClH
product | tert-butyl 4-(vinylsulfonamido)phenylcarbamate | C(=C)S(=O)(=O)NC1=CC=C(C=C1)NC(OC(C)(C)C)=O | C13H18N2O4S
